US09290456B2
Phenylmethanol (6.72 g, 62.2 mmol) was added dropwise to a suspension of sodium hydride (60% suspension in mineral oil; 2.486 g, 62.2 mmol) in tetrahydrofuran (total volume: 100 ml) at room temperature. The resulting mixture was stirred for 1 hour and then cooled to 0° C. before 3,4,6-trichloropyridazine (5.7 g, 31.1 mmol) was added portionwise over 10 minutes. The reaction was then allowed to warm to room temperature and stirred for 16 hours before being poured into water and extracted with ethyl acetate (twice). The organic layer was washed with brine, dried (magnesium sulphate) and evaporated. The residue was purified by silica chromatography (eluting with 5-20% ethyl acetate in petrol containing 5% tetrahydrofuran) to yield 3,4-bis(benzyloxy)-6-chloropyridazine (4.0 g, 12.24 mmol, 39.4% yield) as the major product.

reactant | Phenylmethanol | 62.2 mmol, 6.72 g | C1(=CC=CC=C1)CO | C7H8O
reactant | sodium hydride | 62.2 mmol, 2.486 g | [H-].[Na+]
reactant | 3,4,6-trichloropyridazine | 31.1 mmol, 5.7 g | ClC=1N=NC(=CC1Cl)Cl | C4HCl3N2
reactant | water | O | H2O
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
product | 3,4-bis(benzyloxy)-6-chloropyridazine | 12.24 mmol, 4.0 g, 39.4% yield | C(C1=CC=CC=C1)OC=1N=NC(=CC1OCC1=CC=CC=C1)Cl | C18H15ClN2O2
